US07820837B2
ethyl (2E,4E)-5-(3-methoxyphenyl)penta-2,4-dienoate
To an ice-cooled solution of triethyl 4-phosphonocrotonate (24.0 g, 95.9 mmol) in tetrahydrofuran (100 mL) was added by small portions sodium hydride (60% in oil, 3.84 g, 96.0 mmol), and the mixture was stirred under nitrogen atmosphere for 30 min. A solution of 3-methoxybenzaldehyde (12.3 g, 90.0 mmol) in tetrahydrofuran (100 mL) was added dropwise to the reaction mixture and the mixture was stirred at room temperature for 2 hr. N,N-Dimethylformamide (50 mL) was added and the mixture was further stirred for 18 hr. The reaction mixture was concentrated under reduced pressure, and 1 M hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (10%-30% ethyl acetate/hexane) to give the title compound (7.70 g, yield 37%) as a yellow oil.

reactant | triethyl 4-phosphonocrotonate | 95.9 mmol, 24.0 g | CCOC(=O)/C=C/CP(=O)(OCC)OCC | C10H19O5P
reactant | sodium hydride | 96.0 mmol, 3.84 g | [H-].[Na+]
reactant | 3-methoxybenzaldehyde | 90.0 mmol, 12.3 g | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | N,N-Dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | ethyl (2E,4E)-5-(3-methoxyphenyl)penta-2,4-dienoate | 7.70 g, yield 37% | COC=1C=C(C=CC1)/C=C/C=C/C(=O)OCC | C14H16O3
